US08604033B2
According to Scheme 1 Step 2: A solution of LiOH (358 mmol, 15.3 g) in water (2 M) was added at room temperature to a solution of ethyl 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylate (143 mmol, 37.2 g) in THF/MeOH (1:1, 400 mL) and the reaction mixture was heated at 60° C. overnight. After evaporation of THF and MeOH, a solid was filtered, water (150 mL) was added and the aqueous phase was extracted with Et2O. The aqueous phase was then acidified with a solution of HCl 1 M until pH=1-2 and extracted with DCM. The organic phase was washed with brine, was dried over MgSO4, was filtered and was concentrated under reduced pressure to yield 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylic acid (138 mmol, 32.1 g, 97%) as a pale yellow solid. The crude product was used without further purification.

reactant | LiOH | 358 mmol, 15.3 g | [Li+].[OH-]
reactant | ethyl 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylate | 143 mmol, 37.2 g | COC1=CC=C(CN2N=CC(=C2)C(=O)OCC)C=C1 | C14H16N2O3
solvent | water | 2 M | O | H2O
solvent | THF MeOH | 400 mL | C1CCOC1.CO
product | 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylic acid | 138 mmol, 32.1 g, 97% | COC1=CC=C(CN2N=CC(=C2)C(=O)O)C=C1 | C12H12N2O3
